US20010020089A1
Methyl 6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carboxylate
A suspension of 6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile (Preparation 3) (1.00 g, 2.36 mmol) in methanol (20 ml) was treated with sodium methoxide (0.14 g, 2.59 mmol) and the resulting mixture was heated at reflux under a nitrogen atmosphere for 20 hours. TLC analysis showed that some starting material still remained therefore further sodium methoxide (64 mg, 1.18 mmol) was added and the mixture was heated at reflux under a nitrogen atmosphere for a further hour. The mixture was then cooled to room temperature and the solvent was removed under reduced pressure. Tetrahydrofuran (30 ml) and water (10 ml) were added to the residue and the pH was adjusted to 4 by addition of acetic acid (1 ml). This mixture was heated at reflux for 1 hour. TLC analysis showed that some starting material still remained and therefore further acetic acid (0.5 ml) was added and heating at reflux continued for 18 hours. The reaction was cooled to room temperature and partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogen carbonate. The organic phase was separated, washed with brine, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane: methanol (98.5:1.5 by volume) to afford the title compound (521 mg).

reactant | 6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile | 2.36 mmol, 1.00 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C#N)C1OCCCC1)C1=CC=CC=C1 | C25H24N6O
reactant | sodium methoxide | 2.59 mmol, 0.14 g | C[O-].[Na+]
reactant | sodium methoxide | 1.18 mmol, 64 mg | C[O-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | Methyl 6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carboxylate | 521 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)OC)C1OCCCC1)C1=CC=CC=C1 | C26H27N5O3
